US07585886B2
TBAF was added to a THF solution of 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-(trifluoroacetyl)pyrrolidine and stirred overnight at room temperature. Thereafter, its work-up and purification were carried out in the standard method to obtain [1-(trifluoroacetyl)pyrrolidin-3-yl]methanol. EP: 198.

reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-(trifluoroacetyl)pyrrolidine | [Si](C)(C)(C(C)(C)C)OCC1CN(CC1)C(C(F)(F)F)=O | C13H24F3NO2Si
solvent | THF | C1CCOC1 | C4H8O
product | [1-(trifluoroacetyl)pyrrolidin-3-yl]methanol | FC(C(=O)N1CC(CC1)CO)(F)F | C7H10F3NO2
